US05948792
N-[1[(3Z)-4-trifluoromethyl-3-pentenyl]piperidin-4-yl]-2-cyclopentyl-2-hydroxy-2-phenylacetamide
To a solution of 77 mg of N-(piperidin-4-yl)-2-cyclopentyl-2-phenylacetamide in 3 ml of N,N-dimethylformamide, 74 mg of (3Z)-4-trifluoromethyl-3-pentenyl p-toluenesulfonate, 102 mg of potassium carbonate and 43 mg of potassium iodide were added by the order stated, followed by 3 hours' heating under reflux. The reaction liquid was diluted with diethyl ether, washed with water and saturated saline solution by the order stated, and dried over anhydrous magnesium sulfate. Distilling the solvent off under reduced pressure, the residue was purified by preparative thin layer chromatography (Kieselgel™ 60F254, Art 5744 (Merck) chloroform/methanol=9/1) to provide 27 mg of the title compound as an oily substance.

reactant | N-(piperidin-4-yl)-2-cyclopentyl-2-phenylacetamide | 77 mg | N1CCC(CC1)NC(C(C1=CC=CC=C1)C1CCCC1)=O | C18H26N2O
reactant | (3Z)-4-trifluoromethyl-3-pentenyl p-toluenesulfonate | 74 mg | C1(=CC=C(C=C1)S(=O)(=O)OCC\C=C(\C)/C(F)(F)F)C | C13H15F3O3S
reactant | potassium carbonate | 102 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 43 mg | [I-].[K+]
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-[1[(3Z)-4-trifluoromethyl-3-pentenyl]piperidin-4-yl]-2-cyclopentyl-2-hydroxy-2-phenylacetamide | 27 mg | FC(\C(=C/CCN1CCC(CC1)NC(C(C1=CC=CC=C1)(O)C1CCCC1)=O)\C)(F)F | C24H33F3N2O2
